US07067540B2
N-[2-({[3-bromo-1-(2,6-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzyl]-2-hydroxyacetamide
To a suspension of 4-{[2-(aminomethyl)-4-fluorobenzyl]oxy}-3-bromo-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one trifluoroacetate (0.12 g, 0.00021 mol) in THF (2.0 mL) at 5° C., was added triethyl amine (0.036 g, 0.00035 mol) followed by the addition of acetoxyacetyl chloride (0.05 mL). The mixture was stirred at room temperature for 30 min, diluted with cold water (10 mL), and extracted the products with dichloromethane (2×10 mL). The combined organic extracts were washed with water, dried (Na2SO4) and concentrated to dryness. The residue was dissolved in ethanol (0.5 mL), added 1N NaoH (0.5 mL)and stirred at room temperature for 1 h. The resulting solution was diluted with water (15 mL), and extracted with dichloromethane (2×10 mL). The combined dichloromethane extracts were washed with water, dried (Na2SO4) and concentrated to dryness. The residue was purified by flash chromatography (1% MeOH in EtOAc) to afford the title compound (0.032 g, 30%) as a white amorphous powder: 1H NMR (CDCl3/400 Hz) δ 7.45 (m, 2H), 7.18 (m, 1H), 7.05 (m, 3H), 6.23 (s, 1H), 5.24 (s, 2H), 4.56 (d, 2H, J=6.4 Hz), 4.08 (d, 2H, J=5.2 Hz), 2.79 (t, 1H), and 2.08 (s, 3H;) 19F NMR (CDCl3/400 MHz) δ−111.88 (m), and −118.62 (m); ES-HRMS m/z 511.0482 (M+H C22H19N2O4F3Br requires 511.0475).

reactant | 4-{[2-(aminomethyl)-4-fluorobenzyl]oxy}-3-bromo-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one trifluoroacetate | 0.00021 mol, 0.12 g | FC(C(=O)O)(F)F.NCC1=C(COC2=C(C(N(C(=C2)C)C2=C(C=CC=C2F)F)=O)Br)C=CC(=C1)F
reactant | triethyl amine | 0.00035 mol, 0.036 g | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 0.05 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | N-[2-({[3-bromo-1-(2,6-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzyl]-2-hydroxyacetamide | 0.032 g, 30% | BrC=1C(N(C(=CC1OCC1=C(CNC(CO)=O)C=C(C=C1)F)C)C1=C(C=CC=C1F)F)=O | C22H18BrF3N2O4
